US03950353
By the same procedure, using 3-aminoisothiazole, N-benzoyl-N'-[3-(3-isothiazolylamino)propyl]thiourea is prepared and the benzoyl group is removed to give N-[3-(3-isothiazolylamino)propyl]thiourea.

reactant | 3-aminoisothiazole | NC1=NSC=C1 | C3H4N2S
reactant | N-benzoyl-N'-[3-(3-isothiazolylamino)propyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCCNC1=NSC=C1 | C14H16N4OS2
product | N-[3-(3-isothiazolylamino)propyl]thiourea | S1N=C(C=C1)NCCCNC(=S)N | C7H12N4S2
